US08283353B2
ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-4-hydroxybutanoate
A mixture of ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]pent-4-enoate (0.81 g), sodium periodate (1.4 g), acetone (20 mL), acetonitrile (20 mL), water (20 mL) and osmium tetraoxide (0.24 g, 7% immobilized catalyst) was stirred at room temperature for 14 hr. The precipitate was filtered off, and the filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (5 mL) and methanol (10 mL). Sodium tetrahydroborate (0.084 g) was added at 0° C., and the mixture was stirred at 0° C. for 3 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture. After evaporation of the solvent under reduced pressure, the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.29 g, 36%).

reactant | ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]pent-4-enoate | 0.81 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OCC)CC=C)=O)F | C35H38FN5O4
reactant | sodium periodate | 1.4 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | osmium tetraoxide | 0.24 g | [Os](=O)(=O)(=O)=O
solvent | water | 20 mL | O | H2O
product | ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-4-hydroxybutanoate | 0.29 g, 36% | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OCC)CCO)=O)F | C34H38FN5O5
